US05162318
To a solution of 1,3-dihydro-1-(2-dimethylaminoethyl)-4,5,6-tribromo-2H-benzimidazol-2-one (270 mg) in ethanol (5 ml)/ethyl acetate (40 ml) was added 4N hydrogen chloride in dioxane dropwise with stirring. The separated crystals were collected by suction and dried to give 260 mg of 1,3-dihydro-1-(2-dimethylaminoethyl)-4,5,6-tribromo-2H-benzimidazol-2-one hydrochloride.

reactant | 1,3-dihydro-1-(2-dimethylaminoethyl)-4,5,6-tribromo-2H-benzimidazol-2-one | 270 mg | CN(CCN1C(NC2=C1C=C(C(=C2Br)Br)Br)=O)C | C11H12Br3N3O
reactant | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1,3-dihydro-1-(2-dimethylaminoethyl)-4,5,6-tribromo-2H-benzimidazol-2-one hydrochloride | 260 mg | Cl.CN(CCN1C(NC2=C1C=C(C(=C2Br)Br)Br)=O)C | InChI=1S/C11H12Br3N3O.ClH/c1-16(2)3-4-17-7-5-6(12)8(13)9(14)10(7)15-11(17)18;/h5H,3-4H2,1-2H3,(H,15,18);1H
